US06713476B2
(c) methyl 1-[(2-(S)-hydroxy-3-methylbutanoylamino)methyl]cyclopentanecarboxylate
To a solution of (S)-2-hydroxy-3-methyl-butyric acid (300 mg, 2.5 mmol) in CH2Cl2/DMF (5:1, 20 mL) at 0° C. was added HOBT (382 mg, 2.5 mmol) and EDC (477 mg, 2.5 mmol). The mixture was stirred for 10 min then methyl 1-(aminomethyl)cyclopentanecarboxylate (321 mg, 2.25 mmol) and iPr2NEt (0.5 mL, 2.5 mmol) were added and stirring was continued for 3 h. The reaction was diluted with water and extracted with EtOAc. The combined extracts were washed with water, 1N HCl, sat'd NaHCO3, dried over magnesium sulfate, concentrated, and purified using flash chromatography to give a white solid (420 mg, 72%). MS [M+H]+258.

reactant | (S)-2-hydroxy-3-methyl-butyric acid | 2.5 mmol, 300 mg | O[C@H](C(=O)O)C(C)C | C5H10O3
reactant | HOBT | 2.5 mmol, 382 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 2.5 mmol, 477 mg
reactant | methyl 1-(aminomethyl)cyclopentanecarboxylate | 2.25 mmol, 321 mg | NCC1(CCCC1)C(=O)OC | C8H15NO2
reactant | iPr2NEt | 2.5 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 DMF | 20 mL | C(Cl)Cl.CN(C)C=O
solvent | water | O | H2O
product | methyl 1-[(2-(S)-hydroxy-3-methylbutanoylamino)methyl]cyclopentanecarboxylate | 420 mg, 72% | O[C@H](C(=O)NCC1(CCCC1)C(=O)OC)C(C)C | C13H23NO4
